US06166219
A solution of 0.80 g of N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide in 10 ml of N,N-dimethylformamide were added 0.962 g of 3,4-methylenedioxybenzyl chloride and 0.710 g of sodium hydrogencarbonate, and the mixture was stirred at 80° C. for 4 hours. Chloroform and water were added to the reaction solution, and the chloroform extraction was conducted. The organic layer was washed with water, concentrated, and purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 9:1) to give 0.49 g of N-(2-pyridylmethyl)-4-acetylamino-3-(3,4-methylenedioxybenzylamino)benzamide.

reactant | N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide | 0.80 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H16N4O2
reactant | 3,4-methylenedioxybenzyl chloride | 0.962 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | sodium hydrogencarbonate | 0.710 g | C(O)([O-])=O.[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-pyridylmethyl)-4-acetylamino-3-(3,4-methylenedioxybenzylamino)benzamide | 0.49 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)NCC1=CC2=C(C=C1)OCO2)=O | C23H22N4O4
